US04654348
EXAMPLE 32: 2-Phenyl-3-n-dodecyloxy-7-(1-ethoxycarbonyl-1-methylethylthio)-pyrazolo[4,3-d]pyrimidine
1 g of 2-phenyl-3-hydroxy-7-(1-ethoxycarbonyl-1-methyl-ethylthio)-pyrazolo[4,3-d]pyrimidine and 0.84 g of n-dodecyl bromide were reacted and treated in the same manner as in Example 31 to obtain the desired product.

reactant | 2-phenyl-3-hydroxy-7-(1-ethoxycarbonyl-1-methyl-ethylthio)-pyrazolo[4,3-d]pyrimidine | 1 g | C1(=CC=CC=C1)N1N=C2C(N=CN=C2SC(C)(C)C(=O)OCC)=C1O | C17H18N4O3S
reactant | n-dodecyl bromide | 0.84 g | C(CCCCCCCCCCC)Br | C12H25Br
product | 2-Phenyl-3-n-dodecyloxy-7-(1-ethoxycarbonyl-1-methylethylthio)-pyrazolo[4,3-d]pyrimidine | Yield: 30% | C1(=CC=CC=C1)N1N=C2C(N=CN=C2SC(C)(C)C(=O)OCC)=C1OCCCCCCCCCCCC | C29H42N4O3S
